US07947738B2
(7-d) Tert-butyl(±)-[(1S,5R,6R)-3-methyl-6-(nitromethyl)bicyclo[3.2.0]hept-3-en-6-yl]acetate
Tert-butyl(±)-(1S,5R)-3-methylbicyclo[3.2.0]hept-3-en-6-ylideneacetate (1.21 g, 5.50 mmol) was dissolved in nitromethane (7 mL). To the solution, 1,8-diazabicyclo[5.4.0]undec-7-ene (0.91 mL, 6.0 mmol) was added, and the mixture was heated with stirring at 50 to 60° C. for 6 hours. The mixture was allowed to cool, and a saturated aqueous solution of potassium dihydrogen phosphate was then added thereto, followed by extraction with ethyl acetate. Then, the organic layer was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to obtain the compound of interest as a colorless oil substance (1.14 g, 74%).

reactant | Tert-butyl(±)-(1S,5R)-3-methylbicyclo[3.2.0]hept-3-en-6-ylideneacetate | 5.50 mmol, 1.21 g | CC=1C[C@H]2CC([C@H]2C1)=CC(=O)OC(C)(C)C | C14H20O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 6.0 mmol, 0.91 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | potassium dihydrogen phosphate | P(=O)(O)(O)[O-].[K+]
reactant | nitromethane | 7 mL | [N+](=O)([O-])C | CH3NO2
product | Tert-butyl(±)-[(1S,5R,6R)-3-methyl-6-(nitromethyl)bicyclo[3.2.0]hept-3-en-6-yl]acetate | CC=1C[C@H]2C[C@@]([C@H]2C1)(C[N+](=O)[O-])CC(=O)OC(C)(C)C | C15H23NO4
